### PR TITLE
feat(Topology/ValuativeRel): of and to basis of compatible valuations

### PR DESCRIPTION
**Pull request by pechersky**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

- [x] depends on: #30262

### CODE REVIEW

File: Mathlib/RingTheory/Valuation/ValuativeRel.lean [hunk 1]
```diff
@@ -100,6 +100,15 @@ namespace ValuativeRel
 
 variable {R : Type*} [CommRing R] [ValuativeRel R]
 
+/-- The strict version of the valuative relation. -/
+def rel_lt (x y : R) : Prop := x ≤ᵥ y ∧ ¬ y ≤ᵥ x
+
+@[inherit_doc] infix:50 " <ᵥ " => ValuativeRel.rel_lt
+
+macro_rules | `($a <ᵥ $b) => `(binrel% ValuativeRel.rel_lt $a $b)
```
Comment (kckennylau) [inline Mathlib/RingTheory/Valuation/ValuativeRel.lean]: Why is this necessary? (I know noting about macros)

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 2]
```diff
@@ -29,15 +29,57 @@ open ValuativeRel TopologicalSpace Filter Topology Set
...
     (h₀ : ∀ s : Set R, s ∈ 𝓝 0 ↔ ∃ γ : (ValueGroupWithZero R)ˣ, { z | v z < γ } ⊆ s) :
     IsValuativeTopology R where
   mem_nhds_iff {s x} := by
     simpa [← vadd_mem_nhds_vadd_iff (t := s) (-x), ← image_vadd, ← image_subset_iff] using
       h₀ ((x + ·) ⁻¹' s)
 
+/-- Assuming `ContinuousConstVAdd R R`, we only need to check the neighbourhood of `0` in order to
+prove `IsValuativeTopology R`. -/
+lemma of_hasBasis_zero (h : (𝓝 (0 : R)).HasBasis (fun _ ↦ True)
+    fun γ : (ValueGroupWithZero R)ˣ ↦ { x | (valuation R) x < γ }) :
```
Comment (kckennylau) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: do we want a constructor with \ne 0 instead of Unit?

Comment (kckennylau) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: Is `HasBasis` more useful as a constructor than the `mem_iff` version above?

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 3]
```diff
@@ -29,15 +29,57 @@ open ValuativeRel TopologicalSpace Filter Topology Set
...
+    IsValuativeTopology R :=
+  .of_zero <| by simp [h.mem_iff]
+
+lemma of_hasBasis_pair
+    (h : (𝓝 (0 : R)).HasBasis (fun rs : R × R ↦ rs.1 ∈ posSubmonoid R ∧ rs.2 ∈ posSubmonoid R)
+      fun rs  ↦ { x | x * rs.2 <ᵥ rs.1 }) :
```
Comment (kckennylau) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: can we have a version with Field R? (done in https://github.com/pechersky/mathlib4/pull/1)

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 4]
```diff
@@ -87,6 +129,39 @@ theorem hasBasis_nhds_zero :
...
+      simp [valuation, hx]
+  · rintro ⟨r, s⟩ ⟨hr, hs⟩
+    refine ⟨Units.mk0 (.mk r ⟨s, hs⟩) ?_, trivial, ?_⟩
+    · simpa using hr
+    · simp [valuation]
+
+lemma hasBasis_nhds_zero_compatible {Γ₀ : Type*} [LinearOrderedCommMonoidWithZero Γ₀]
+    (v' : Valuation R Γ₀) [v'.Compatible] :
+    (𝓝 (0 : R)).HasBasis (fun rs : R × R ↦ v rs.1 ≠ 0 ∧ v rs.2 ≠ 0)
+      fun rs : R × R ↦ { x | v x * v rs.2 < v rs.1 } := by
```
Comment (kckennylau) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: This statement is currently wrong (fixed in [my PR to your PR](https://github.com/pechersky/mathlib4/pull/1))

File: Mathlib/RingTheory/Valuation/ValuativeRel.lean (hunk 1 above)
Comment (pechersky) [reply Mathlib/RingTheory/Valuation/ValuativeRel.lean]: The infix and macro rules defines the notation in a way that it gets pretty printed. The binrel makes it such that the terms elaborate their types in a way that is slightly deferred, so that one can write x < y for y a subtype, without having to write y.val.

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean (hunk 2 above)
Comment (pechersky) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: Yes, see for example the discussion at https://github.com/leanprover-community/mathlib4/pull/22580#discussion_r1984190427
> The goal is simply that, if you happen to have your favorite basis [...]  which satisfy the conditions, it spares you from studying all the entourages satisfying the condition.

`Filter.HasBasis` has lots of nice API for transferring bases via `.map`, `.comap`, etc.

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 5]
```diff
@@ -29,15 +29,62 @@ open ValuativeRel TopologicalSpace Filter Topology Set
...
     simpa [← vadd_mem_nhds_vadd_iff (t := s) (-x), ← image_vadd, ← image_subset_iff] using
       h₀ ((x + ·) ⁻¹' s)
 
+/-- Assuming `ContinuousConstVAdd R R`, we only need to check the neighbourhood of `0` in order to
+prove `IsValuativeTopology R`. -/
+lemma of_hasBasis_zero (h : (𝓝 (0 : R)).HasBasis (fun _ ↦ True)
+    fun γ : (ValueGroupWithZero R)ˣ ↦ { x | (valuation R) x < γ }) :
+    IsValuativeTopology R :=
+  .of_zero <| by simp [h.mem_iff]
+
```
Comment (kckennylau) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]:
```suggestion

/-- Assuming `ContinuousConstVAdd R R`, we only need to check the neighbourhood of `0` in order to
prove `IsValuativeTopology R`. -/
lemma of_hasBasis_zero_ne_zero
    (h : (𝓝 (0 : R)).HasBasis (· ≠ 0) fun γ ↦ { x | (valuation R) x < γ }) :
    IsValuativeTopology R :=
  .of_hasBasis_zero <| h.to_hasBasis
    (fun γ hγ ↦ ⟨Units.mk0 γ hγ, trivial, subset_refl _⟩)
    fun γ _ ↦ ⟨γ, γ.ne_zero, subset_refl _⟩

```

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 6]
```diff
@@ -87,6 +134,41 @@ theorem hasBasis_nhds_zero :
 @[deprecated (since := "2025-08-01")]
 alias _root_.ValuativeTopology.hasBasis_nhds_zero := hasBasis_nhds_zero
```
Comment (kckennylau) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]:
```suggestion

variable (R) in
lemma hasBasis_zero_ne_zero :
    (𝓝 (0 : R)).HasBasis (· ≠ 0) fun γ ↦ { x | (valuation R) x < γ } :=
  (hasBasis_nhds_zero R).to_hasBasis
    (fun γ _ ↦ ⟨γ, γ.ne_zero, subset_refl _⟩)
    fun γ hγ ↦ ⟨Units.mk0 γ hγ, trivial, subset_refl _⟩

```

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 7]
```diff
@@ -87,6 +134,41 @@ theorem hasBasis_nhds_zero :
...
+    · simp [valuation]
+
+lemma hasBasis_nhds_zero_compatible {Γ₀ : Type*} [LinearOrderedCommMonoidWithZero Γ₀]
+    (v' : Valuation R Γ₀) [v'.Compatible] :
+    (𝓝 (0 : R)).HasBasis (fun rs : R × R ↦ v' rs.1 ≠ 0 ∧ v' rs.2 ≠ 0)
+      fun rs : R × R ↦ { x | v' x * v' rs.2 < v' rs.1 } := by
+  convert hasBasis_nhds_zero_pair R <;>
+  simp [Valuation.Compatible.rel_iff_le («v» := v'), Valuation.Compatible.rel_lt_iff_lt («v» := v')]
+
+lemma hasBasis_nhds_zero_ne_zero
```
Comment (kckennylau) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]:
```suggestion
lemma hasBasis_nhds_zero_map_ne_zero
```
because this conflicts with the suggestion above

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 8]
```diff
@@ -29,15 +29,62 @@ open ValuativeRel TopologicalSpace Filter Topology Set
...
+lemma of_hasBasis_compatible {Γ₀ : Type*} [LinearOrderedCommMonoidWithZero Γ₀]
+    {v' : Valuation R Γ₀} [v'.Compatible]
+    (h : (𝓝 (0 : R)).HasBasis (fun rs : R × R ↦ v' rs.1 ≠ 0 ∧ v' rs.2 ≠ 0)
+    fun rs : R × R ↦ { x | v' x * v' rs.2 < v' rs.1 }) :
+    IsValuativeTopology R := by
+  refine of_hasBasis_pair ?_
+  convert h <;>
+  simp [Valuation.Compatible.rel_iff_le («v» := v'), Valuation.Compatible.rel_lt_iff_lt («v» := v')]
+
+lemma of_hasBasis_ne_zero
```
Comment (kckennylau) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]:
```suggestion
lemma of_hasBasis_nhds_zero_map_ne_zero
```
for consistency

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean (hunk 6 above)
Comment (kckennylau) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]:
```suggestion

variable (R) in
lemma hasBasis_zero_ne_zero_and_le_one :
    (𝓝 (0 : R)).HasBasis (fun γ ↦ γ ≠ 0 ∧ γ ≤ 1) fun γ ↦ { x | (valuation R) x < γ } :=
  (hasBasis_zero_ne_zero R).to_hasBasis
    (fun γ hγ ↦ ⟨min γ 1, ⟨zero_lt_iff.1 <| lt_min (zero_lt_iff.2 hγ) zero_lt_one,
      min_le_right _ _⟩, fun x hx ↦ hx.trans_le (a := v x) (min_le_left _ _)⟩)
    fun γ hγ ↦ ⟨γ, hγ.1, subset_refl _⟩

```

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean (hunk 3 above)
Comment (kckennylau) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: please resolve

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean (hunk 5 above)
Comment (kckennylau) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: done in https://github.com/pechersky/mathlib4/pull/2

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean (hunk 6 above)
Comment (kckennylau) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: done in https://github.com/pechersky/mathlib4/pull/2

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean (hunk 7 above)
Comment (kckennylau) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: done in https://github.com/pechersky/mathlib4/pull/2

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean (hunk 8 above)
Comment (kckennylau) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: done in https://github.com/pechersky/mathlib4/pull/2

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean (hunk 6 above)
Comment (kckennylau) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: done in https://github.com/pechersky/mathlib4/pull/2

**Comment by kckennylau** [comment]
@erdOne are there other constructors that you would want?

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 9]
```diff
@@ -17,42 +17,63 @@ to facilitate a refactor.
...
-    ∃ γ : (ValueGroupWithZero R)ˣ, { z | v (z - x) < γ } ⊆ s := by
-  convert mem_nhds_iff (s := s) using 4
-  ext z
-  simp [neg_add_eq_sub]
+/-! # Results assuming IsValuativeTopology -/
+
+variable [TopologicalSpace R] [IsValuativeTopology R]
 
 @[deprecated (since := "2025-08-01")]
 alias _root_.ValuativeTopology.mem_nhds := mem_nhds_iff'
```
Comment (kckennylau) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: I forgot to move this back up...

**Comment by kckennylau** [comment]
We might need to change the docstring... (is it still temporary?)

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 10]
```diff
@@ -9,54 +9,75 @@ import Mathlib.Topology.Algebra.WithZeroTopology
...
+  .of_zero <| by simp [h.mem_iff]
+
 end
 
-variable {R : Type*} [CommRing R] [ValuativeRel R] [TopologicalSpace R] [IsValuativeTopology R]
+instance of_subgroups_basis {R : Type*} [CommRing R] [ValuativeRel R] :
+    letI := ((valuation R).subgroups_basis.topology)
+    IsValuativeTopology R :=
+  letI := ((valuation R).subgroups_basis.topology)
+  of_hasBasis_zero ((valuation R).subgroups_basis.hasBasis_nhds_zero)
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: I think this is a bad performance instance in general.
And I doubt if we need this globally

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 11]
```diff
@@ -88,6 +109,90 @@ theorem hasBasis_nhds_zero :
 @[deprecated (since := "2025-08-01")]
 alias _root_.ValuativeTopology.hasBasis_nhds_zero := hasBasis_nhds_zero
 
+variable (R) in
+lemma hasBasis_nhds_zero_ne_zero :
+    (𝓝 (0 : R)).HasBasis (· ≠ 0) fun γ ↦ { x | (valuation R) x < γ } :=
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]:
```suggestion
    (𝓝 (0 : R)).HasBasis (· ≠ 0) ({ x | valuation R x < · }) :=
```

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 12]
```diff
@@ -88,6 +109,90 @@ theorem hasBasis_nhds_zero :
...
+lemma hasBasis_nhds_zero_ne_zero_and_le_one :
+    (𝓝 (0 : R)).HasBasis (fun γ ↦ γ ≠ 0 ∧ γ ≤ 1) fun γ ↦ { x | (valuation R) x < γ } :=
+  (hasBasis_nhds_zero_ne_zero R).to_hasBasis
+    (fun γ hγ ↦ ⟨min γ 1, ⟨zero_lt_iff.1 <| lt_min (zero_lt_iff.2 hγ) zero_lt_one,
+      min_le_right _ _⟩, fun x hx ↦ hx.trans_le (a := v x) (min_le_left _ _)⟩)
+    fun γ hγ ↦ ⟨γ, hγ.1, subset_refl _⟩
+
+variable (R) in
+lemma hasBasis_nhds_zero_pair :
+    (𝓝 (0 : R)).HasBasis (fun rs : R × R ↦ rs.1 ∈ posSubmonoid R ∧ rs.2 ∈ posSubmonoid R)
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: Do we prefer `r ∈ posSubmonoid R` over `¬ r ≤ᵥ 0` or `0 <ᵥ r`?

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 13]
```diff
@@ -88,6 +109,90 @@ theorem hasBasis_nhds_zero :
...
+      fun rs  ↦ { x | x * rs.2 <ᵥ rs.1 } := by
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]:
```suggestion
      fun rs ↦ { x | x * rs.2 <ᵥ rs.1 } := by
```

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 14]
```diff
@@ -198,6 +303,68 @@ lemma continuous_valuation : Continuous v := by
...
+    IsValuativeTopology R := by
+  rw [isValuativeTopology_iff_subgroups_basis_topology_eq]
+  let := (valuation R).subgroups_basis
+  specialize @ih this.topology of_subgroups_basis
+  refine ext_nhds fun x ↦ Filter.ext fun t ↦ ?_
+  rw [← @vadd_mem_nhds_vadd_iff _ _ this.topology _ _ _ _ (-x),
+    ← @vadd_mem_nhds_vadd_iff _ _ τ _ _ _ _ (-x),
+    vadd_eq_add, neg_add_cancel, h.mem_iff, ih.mem_iff]
+
+lemma of_hasBasis_ne_zero
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: Can you make these into iff lemmas? Thanks.

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 15]
```diff
@@ -9,54 +9,75 @@ import Mathlib.Topology.Algebra.WithZeroTopology
...
-section
+variable {R : Type*} [CommRing R] [ValuativeRel R]
 
-/-! # Alternate constructors -/
+local notation "v" => valuation R
 
-variable {R : Type*} [CommRing R] [ValuativeRel R] [TopologicalSpace R]
+/-- A version mentioning subtraction. -/
+lemma mem_nhds_iff' [TopologicalSpace R] [IsValuativeTopology R] {s : Set R} {x : R} :
+    s ∈ 𝓝 (x : R) ↔
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]:
```suggestion
    s ∈ 𝓝 x ↔
```

Comment (erdOne) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: Do we still need these lemmas if we have the `hasBasis` ones?

**Review by erdOne — COMMENTED** [review]
I feel like the right approach in proving these is 
1. Show that `IsValuativeTopology R <-> (nhds 0).HasBasis _ _` for one nhds
2. Use the following to show this for all other nhds
```
theorem HasBasis.to_hasBasis_iff (h : ∀ i, p i → ∃ i', p' i' ∧ s' i' ⊆ s i)
    (h' : ∀ i', p' i' → ∃ i, p i ∧ s i ⊆ s' i') : l.HasBasis p s ↔ l.HasBasis p' s' :=
  ⟨(·.to_hasBasis h h'), (·.to_hasBasis h' h)⟩
```
3. use alias to get the projections.

You can also avoid the awkward meta lemma with this approach.

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean (hunk 12 above)
Comment (pechersky) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: My preference for `posSubmonoid R` is based off of the fact that it is easier to use lemmas like `one_mem`, `mul_mem` without having to reprove all of that on the `x <_v 0` expression level.

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean (hunk 15 above)
Comment (pechersky) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: I think so, it is used in a proof below

Comment (erdOne) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: But you can just use `HasBasis.mem_iff`

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean (hunk 12 above)
Comment (erdOne) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: I think we should definitely provide the lemmas `0 <ᵥ 1` and `0 <ᵥ a -> 0 <ᵥ b -> 0 <ᵥ a * b`.

**Comment by pechersky** [comment]
I can make the `iff` statements. But at use sites, it will be more awkward to use the iffs, because it will look like:
```
have h := IsValuativeTopology.hasBasis_nhds_zero_ne_zero_and_le_one_iff.mp inferInstance
```

**Comment by erdOne** [comment]
Yes we should still provide the two directions as separate lemmas.

File: Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean [hunk 16]
```diff
@@ -101,6 +101,15 @@ namespace ValuativeRel
 
 variable {R : Type*} [CommRing R] [ValuativeRel R]
 
+/-- The strict version of the valuative relation. -/
+def rel_lt (x y : R) : Prop := x ≤ᵥ y ∧ ¬ y ≤ᵥ x
```
Comment (erdOne) [inline Mathlib/RingTheory/Valuation/ValuativeRel/Basic.lean]:
```suggestion
def rel_lt (x y : R) : Prop := ¬ y ≤ᵥ x
```
The order on the value group is total, I recall?

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 17]
```diff
@@ -211,10 +238,196 @@ lemma continuous_valuation : Continuous v := by
...
+    (𝓝 (0 : F)).HasBasis (fun r ↦ v' r ≠ 0) fun r ↦ { x | v' x < v' r } :=
+  iff_hasBasis_map_ne_zero.mp inferInstance
+
+lemma of_hasBasis_map_ne_zero
+    {F : Type*} [Field F] [ValuativeRel F] [TopologicalSpace F] [ContinuousConstVAdd F F]
+    {Γ₀ : Type*} [LinearOrderedCommGroupWithZero Γ₀]
+    {v' : Valuation F Γ₀} [v'.Compatible]
+    (h : (𝓝 (0 : F)).HasBasis (fun r ↦ v' r ≠ 0) fun r ↦ { x | v' x < v' r }) :
+    IsValuativeTopology F :=
+  iff_hasBasis_map_ne_zero.mpr h
```
Comment (smmercuri) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: Can we provide these as `alias`es instead of separate lemmas? Something like 
```lean
alias ⟨hasBasis_nhds_zero_map_ne_zero, of_hasBasis_map_ne_zero⟩ := iff_hasBasis_map_ne_zero
```

and similarly above

Comment (pechersky) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: Unforuntately that won't have the correct arguments -- the `mp` direction won't have `IsValuativeTopology` as an instance argument. I'll do alias for the other direction.

**Comment by erdOne** [comment]
Can you merge master to clean up the diff? Thanks.

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 18]
```diff
@@ -9,59 +9,100 @@ import Mathlib.Topology.Algebra.WithZeroTopology
...
+  · simp [IsValuativeTopology.mem_nhds_iff]
+  · constructor
+    intro s x
     simpa [← vadd_mem_nhds_vadd_iff (t := s) (-x), ← image_vadd, ← image_subset_iff] using
-      h₀ ((x + ·) ⁻¹' s)
+      h ((x + ·) ⁻¹' s)
+
+/-- Assuming `ContinuousConstVAdd R R`, we only need to check the neighbourhood of `0` in order to
+prove `IsValuativeTopology R`. -/
+lemma iff_hasBasis_zero :
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: I think we don't need `iff_nhds_zero` if we have this?

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 19]
```diff
@@ -9,59 +9,100 @@ import Mathlib.Topology.Algebra.WithZeroTopology
...
+      fun γ : (ValueGroupWithZero R)ˣ => { z | v (z - x) < γ } := by
+  simp_rw [hasBasis_iff, ← neg_add_eq_sub]
+  constructor <;> intro h
+  · simp [mem_nhds_iff]
+  · constructor
+    simp [h]
 
-open ValuativeRel TopologicalSpace Filter Topology Set
+/-- A version mentioning subtraction. -/
+lemma mem_nhds_iff' [TopologicalSpace R] [IsValuativeTopology R] {s : Set R} {x : R} :
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: I also think we don't need this if we have `hasBasis_nhds_iff`.

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 20]
```diff
@@ -89,36 +130,22 @@ lemma hasBasis_nhds' (x : R) :
...
+    ((hasBasis_nhds_iff.mp inferInstance z).tendsto_iff
+      (hasBasis_nhds_iff.mp inferInstance (x + z))).2 fun γ _ ↦
+      ⟨γ, trivial, fun y hy ↦ by simpa using hy⟩⟩
 
 variable (R) in
 instance (priority := low) isTopologicalAddGroup : IsTopologicalAddGroup R := by
-  have cts_add : ContinuousConstVAdd R R :=
-    ⟨fun x ↦ continuous_iff_continuousAt.2 fun z ↦
-      ((hasBasis_nhds z).tendsto_iff (hasBasis_nhds (x + z))).2 fun γ _ ↦
-        ⟨γ, trivial, fun y hy ↦ by simpa using hy⟩⟩
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: I prefer not to move it out because `ContinuousConstVAdd` is implied by `IsTopologicalAddGroup` via typeclass search. Adding it as a declaration would add more noise to the docs and search results.

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 21]
```diff
@@ -211,10 +238,170 @@ lemma continuous_valuation : Continuous v := by
...
+    (ih : ∀ [TopologicalSpace R] [IsValuativeTopology R], (nhds 0).HasBasis p s)
+    [τ : TopologicalSpace R] [ContinuousConstVAdd R R] (h : (nhds 0).HasBasis p s) :
+    IsValuativeTopology R := by
+  rw [isValuativeTopology_iff_subgroups_basis_topology_eq]
+  let := (valuation R).subgroups_basis
+  specialize @ih this.topology of_subgroups_basis
+  refine ext_nhds fun x ↦ Filter.ext fun t ↦ ?_
+  rw [← @vadd_mem_nhds_vadd_iff _ _ this.topology _ _ _ _ (-x),
+    ← @vadd_mem_nhds_vadd_iff _ _ τ _ _ _ _ (-x),
+    vadd_eq_add, neg_add_cancel, h.mem_iff, ih.mem_iff]
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: I think this lemma is quite weird and I don't think we need it.

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 22]
```diff
@@ -211,10 +238,170 @@ lemma continuous_valuation : Continuous v := by
...
+
+lemma iff_hasBasis_ne_zero :
+    IsValuativeTopology R ↔
+    (𝓝 (0 : R)).HasBasis (· ≠ 0) fun γ ↦ { x | (valuation R) x < γ } :=
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]:
```suggestion
    (𝓝 (0 : R)).HasBasis (· ≠ 0) ({ x | (valuation R) x < · }) :=
```

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 23]
```diff
@@ -211,10 +238,170 @@ lemma continuous_valuation : Continuous v := by
...
+variable (R) in
+lemma hasBasis_nhds_zero_ne_zero [IsValuativeTopology R] :
+    (𝓝 (0 : R)).HasBasis (· ≠ 0) ({ x | (valuation R) x < · }) :=
+  iff_hasBasis_ne_zero.mp inferInstance
+
+alias ⟨_, of_hasBasis_ne_zero⟩ := iff_hasBasis_ne_zero
+
+lemma iff_hasBasis_ne_zero_and_le_one :
+    IsValuativeTopology R ↔
+    (𝓝 (0 : R)).HasBasis (fun γ ↦ γ ≠ 0 ∧ γ ≤ 1) fun γ ↦ { x | (valuation R) x < γ } :=
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]:
```suggestion
    (𝓝 (0 : R)).HasBasis (fun γ ↦ γ ≠ 0 ∧ γ ≤ 1) ({ x | (valuation R) x < · }) :=
```

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 24]
```diff
@@ -211,10 +238,170 @@ lemma continuous_valuation : Continuous v := by
...
+      exact le_mul_of_one_le_right' h1x
+
+lemma hasBasis_nhds_zero_min_inv [IsValuativeTopology R] :
+    (𝓝 (0 : R)).HasBasis (fun r : R ↦ r ∈ posSubmonoid R)
+      fun r ↦ { x | x <ᵥ r ∧ x * r <ᵥ 1 } :=
+  iff_hasBasis_min_inv.mp inferInstance
+
+alias ⟨_, of_hasBasis_min_inv⟩ := iff_hasBasis_min_inv
+
+lemma iff_hasBasis_compatible {Γ₀ : Type*} [LinearOrderedCommMonoidWithZero Γ₀]
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]:
```suggestion
lemma iff_hasBasis_of_compatible {Γ₀ : Type*} [LinearOrderedCommMonoidWithZero Γ₀]
```

Comment (erdOne) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: Same for the two directions

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 25]
```diff
@@ -211,10 +238,170 @@ lemma continuous_valuation : Continuous v := by
...
+
+lemma hasBasis_nhds_zero_compatible {Γ₀ : Type*} [LinearOrderedCommMonoidWithZero Γ₀]
+    {v' : Valuation R Γ₀} [v'.Compatible] [IsValuativeTopology R] :
+    (𝓝 (0 : R)).HasBasis (fun rs : R × R ↦ v' rs.1 ≠ 0 ∧ v' rs.2 ≠ 0)
+      fun rs : R × R ↦ { x | v' x * v' rs.2 < v' rs.1 } :=
+  iff_hasBasis_compatible.mp inferInstance
+
+alias ⟨_, of_hasBasis_compatible⟩ := iff_hasBasis_compatible
+
+lemma iff_hasBasis_map_ne_zero
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]:
```suggestion
lemma iff_hasBasis_ne_zero_of_compatible
```
Maybe?

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 26]
```diff
@@ -211,10 +238,170 @@ lemma continuous_valuation : Continuous v := by
...
+    {F : Type*} [Field F] [ValuativeRel F] [TopologicalSpace F] [ContinuousConstVAdd F F]
+    {Γ₀ : Type*} [LinearOrderedCommGroupWithZero Γ₀]
+    {v' : Valuation F Γ₀} [v'.Compatible] :
+    IsValuativeTopology F ↔
+    (𝓝 (0 : F)).HasBasis (fun r ↦ v' r ≠ 0) fun r ↦ { x | v' x < v' r } :=
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]:
```suggestion
    (𝓝 (0 : F)).HasBasis (v' · ≠ 0) fun r ↦ { x | v' x < v' r } :=
```

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 27]
```diff
@@ -211,10 +238,170 @@ lemma continuous_valuation : Continuous v := by
...
+  (iff_hasBasis_compatible (v' := v')).trans <| HasBasis.to_hasBasis_iff
+  (fun ⟨x, y⟩ hxy ↦ ⟨x / y, by simpa using hxy, by simp [lt_div_iff₀ (zero_lt_iff.2 hxy.2)]⟩)
+  fun x hx ↦ ⟨(x, 1), by simp [hx], by simp⟩
+
+lemma hasBasis_nhds_zero_map_ne_zero
+    {F : Type*} [Field F] [ValuativeRel F] [TopologicalSpace F] [ContinuousConstVAdd F F]
+    {Γ₀ : Type*} [LinearOrderedCommGroupWithZero Γ₀]
+    {v' : Valuation F Γ₀} [v'.Compatible] [IsValuativeTopology F] :
+    (𝓝 (0 : F)).HasBasis (fun r ↦ v' r ≠ 0) fun r ↦ { x | v' x < v' r } :=
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]:
```suggestion
    (𝓝 (0 : F)).HasBasis (v' · ≠ 0) fun r ↦ { x | v' x < v' r } :=
```

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean (hunk 22 above)
Comment (erdOne) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: Oh and most `(valuation R) x` should be `valuation R x`

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 28]
```diff
@@ -211,10 +238,170 @@ lemma continuous_valuation : Continuous v := by
...
+lemma hasBasis_nhds_zero_pair [IsValuativeTopology R] :
+    (𝓝 (0 : R)).HasBasis (fun rs : R × R ↦ 0 <ᵥ rs.1 ∧ 0 <ᵥ rs.2)
+      fun rs ↦ { x | x * rs.2 <ᵥ rs.1 } :=
+  iff_hasBasis_pair.mp inferInstance
+
+alias ⟨_, of_hasBasis_pair⟩ := iff_hasBasis_pair
+
+lemma iff_hasBasis_min_inv :
+    IsValuativeTopology R ↔
+    (𝓝 (0 : R)).HasBasis (fun r : R ↦ r ∈ posSubmonoid R)
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: I think we should prefer `0 <v r` now that we have notation for it.

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 29]
```diff
@@ -211,10 +238,170 @@ lemma continuous_valuation : Continuous v := by
...
+    · simp [valuation]
+
+lemma hasBasis_nhds_zero_pair [IsValuativeTopology R] :
+    (𝓝 (0 : R)).HasBasis (fun rs : R × R ↦ 0 <ᵥ rs.1 ∧ 0 <ᵥ rs.2)
+      fun rs ↦ { x | x * rs.2 <ᵥ rs.1 } :=
+  iff_hasBasis_pair.mp inferInstance
+
+alias ⟨_, of_hasBasis_pair⟩ := iff_hasBasis_pair
+
+lemma iff_hasBasis_min_inv :
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean:299]: I would be nice to have a short docstring explaining the name (because it doesn't really follow the naming convention)

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean (hunk 18 above)
Comment (pechersky) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: But one uses the former to prove the latter

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean (hunk 19 above)
Comment (pechersky) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: `mem_nhds_iff'` takes `IsValuativeTopology` as an instance argument, I would prefer that instead of having to `(hasBasis_nhds_iff.mp inferInstance).mem_iff`

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean (hunk 18 above)
Comment (erdOne) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: The same proof basically works I think.

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean (hunk 19 above)
Comment (pechersky) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: And also a left-over `True`

Comment (erdOne) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: Sorry I meant `hasBasis_nhds_zero`.

Comment (pechersky) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: But this is over a general nhds, while `hasBasis_nhds_zero` is over `nhds 0`.

Comment (pechersky) [reply Mathlib/Topology/Algebra/Valued/ValuativeRel.lean]: removed it

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 30]
```diff
@@ -9,59 +9,90 @@ import Mathlib.Topology.Algebra.WithZeroTopology
...
-      h₀ ((x + ·) ⁻¹' s)
+      h ((x + ·) ⁻¹' s)
 
 end
 
-variable {R : Type*} [CommRing R] [ValuativeRel R] [TopologicalSpace R] [IsValuativeTopology R]
+lemma of_subgroups_basis {R : Type*} [CommRing R] [ValuativeRel R] :
+    letI := ((valuation R).subgroups_basis.topology)
+    IsValuativeTopology R :=
+  letI := ((valuation R).subgroups_basis.topology)
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean:68]:
```suggestion
    letI := (valuation R).subgroups_basis.topology
    IsValuativeTopology R :=
  letI := (valuation R).subgroups_basis.topology
```

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 31]
```diff
@@ -9,59 +9,90 @@ import Mathlib.Topology.Algebra.WithZeroTopology
...
+variable [TopologicalSpace R] [IsValuativeTopology R]
+
+variable (R) in
+theorem hasBasis_nhds_zero :
+    (𝓝 (0 : R)).HasBasis (fun _ => True)
+      fun γ : (ValueGroupWithZero R)ˣ => { x | v x < γ } := by
+  simpa using hasBasis_nhds_iff.mp inferInstance (0 : R)
 
 @[deprecated (since := "2025-08-01")]
-alias _root_.ValuativeTopology.mem_nhds := mem_nhds_iff'
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean:59]: You should keep the old deprecation and point both this and `ValuativeTopology.mem_nhds_iff'` to `hasBasis_nhds_zero`.

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 32]
```diff
@@ -78,47 +109,28 @@ lemma v_eq_valuation {R : Type*} [CommRing R] [ValuativeRel R] [UniformSpace R]
...
 
-variable (R) in
-theorem hasBasis_nhds_zero :
-    (𝓝 (0 : R)).HasBasis (fun _ => True)
-      fun γ : (ValueGroupWithZero R)ˣ => { x | v x < γ } := by
-  convert hasBasis_nhds (0 : R); rw [sub_zero]
-
-variable (R) in
-/-- A variant of `hasBasis_nhds_zero` where `· ≠ 0` is unbundled. -/
-lemma hasBasis_nhds_zero' :
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean:100]: Can you also deprecate this (point this to `hasBasis_nhds_zero_ne_zero`)? Thanks.

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 33]
```diff
@@ -78,47 +109,28 @@ lemma v_eq_valuation {R : Type*} [CommRing R] [ValuativeRel R] [UniformSpace R]
...
-    (𝓝 0).HasBasis (· ≠ 0) ({ x | v x < · }) :=
-  (hasBasis_nhds_zero R).to_hasBasis (fun γ _ ↦ ⟨γ, by simp⟩)
-    fun γ hγ ↦ ⟨.mk0 γ hγ, by simp⟩
-
-@[deprecated (since := "2025-08-01")]
-alias _root_.ValuativeTopology.hasBasis_nhds_zero := hasBasis_nhds_zero
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean:106]: This also should be kept

File: Mathlib/Topology/Algebra/Valued/ValuativeRel.lean [hunk 34]
```diff
@@ -78,47 +109,28 @@ lemma v_eq_valuation {R : Type*} [CommRing R] [ValuativeRel R] [UniformSpace R]
...
 instance (priority := low) isTopologicalAddGroup : IsTopologicalAddGroup R := by
-  have cts_add : ContinuousConstVAdd R R :=
-    ⟨fun x ↦ continuous_iff_continuousAt.2 fun z ↦
-      ((hasBasis_nhds z).tendsto_iff (hasBasis_nhds (x + z))).2 fun γ _ ↦
-        ⟨γ, trivial, fun y hy ↦ by simpa using hy⟩⟩
   have basis := hasBasis_nhds_zero R
+  have cts_add : ContinuousConstVAdd R R :=
+  ⟨fun x ↦ continuous_iff_continuousAt.2 fun z ↦
+    ((hasBasis_nhds_iff.mp inferInstance z).tendsto_iff
+      (hasBasis_nhds_iff.mp inferInstance (x + z))).2 fun γ _ ↦
```
Comment (erdOne) [inline Mathlib/Topology/Algebra/Valued/ValuativeRel.lean:127]: You can still use `(hasBasis_nhds z)` here right?

**Review by erdOne — APPROVED** [review]
Basically LGTM but except some comments about deprecations.
